US05066640
325 g (2.4 moles) of sulfuryl chloride were added dropwise to 511.0 g (2.2 moles) of ethyl 2-(o-methylbenzyl)-acetoacetate in the course of 2 hours, while stirring. Thereafter, the mixture was heated at 50° to 55° C. for 4 hours. The crude product was purified by vacuum distillation without a column. 547 g (92% of the theoretical yield) of ethyl 2-chloro-2-(o-methylbenzyl)-acetoacetate of boiling point 120° C. at 0.01 mm Hg were obtained.

reactant | sulfuryl chloride | 2.4 moles, 325 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ethyl 2-(o-methylbenzyl)-acetoacetate | 2.2 moles, 511.0 g | CC1=C(CC(C(=O)OCC)C(=O)C)C=CC=C1 | C14H18O3
product | ethyl 2-chloro-2-(o-methylbenzyl)-acetoacetate | ClC(C(=O)OCC)(C(=O)C)CC1=C(C=CC=C1)C | C14H17ClO3
